US07960409B2
Step 3: 7-methyl-4-(2-methyl-1,3-oxazol-4-yl)-2H-chromen-2-one
To a solution of 4-(bromoacetyl)-7-methyl-2H-chromen-2-one (750 mg, 2.67 mmol) in N,N-dimethylformamide (2.5 mL), acetamide (158 mg, 2.67 mmol) was added. The reaction was then stirred overnight at 100° C. After cooling, the reaction mixture was dissolved with ethyl acetate and washed with water and brine, dried over MgSO4, filtered and concentrated. The crude residue obtained was pre-adsorbed on silica gel and purified by column chromatography (EtOAc/hexanes, 30:70 to 80:20) to afford the title compound. 1H NMR (400 MHz, acetone-d6): 8.52 (s, 1H), 8.21 (d, 1H), 7.23 (s, 1H), 7.21 (d, 1H), 6.52 (s, 1H), 2.57 (s, 3H), 2.49 (s, 3H).

reactant | 4-(bromoacetyl)-7-methyl-2H-chromen-2-one | 2.67 mmol, 750 mg | BrCC(=O)C1=CC(OC2=CC(=CC=C12)C)=O | C12H9BrO3
reactant | acetamide | 2.67 mmol, 158 mg | C(C)(=O)N | C2H5NO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
product | 7-methyl-4-(2-methyl-1,3-oxazol-4-yl)-2H-chromen-2-one | CC1=CC=C2C(=CC(OC2=C1)=O)C=1N=C(OC1)C | C14H11NO3
